Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Waves of Anxiety"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, patient is a ___ year old male with no significant past 
psychiatry or medical history who presents to the ___ for 
worsening symptoms of depression and anxiety and two instances 
of passive suicidal ideation in the context of multiple 
psychosocial stressors.

On initial evaluation in the ___, the patient endorses "Extreme 
depression and anxiety. It all started in about the past month 
and half." He states that he decided to have a PSA done with his 
annual physical after his ___ birthday, in ___ of this year, 
and notes that his PSA was elevated. He states he was concerned 
because his father died of prostate CA at the age of ___. Repeat
PSA with his urologist (also his father's former urologist) 
revealed an elevated PSA, and a prostate biopsy was scheduled 
initially for ___. The patient thats that there was 
some worry around this initially, and around ___, he 
found out that his brother's girlfriend had pancreatic cancer
spread to his liver; around the same time (early ___ he 
found out that his ___ had breast cancer, requiring 
mastectomy around the time of ___. He also states that 
he and his brother are ___ in a ___ 
___, and he found that his work was more difficult given 
his brother's preoccupation with his girlfriend's pancreatic CA 
care.

The patient notes that his ___ biopsy was delayed to 
___, adding additional stress (the physician to 
perform the biopsy was ill on initial appointment). The patient 
states that he got the results of his ___ biopsy have 
come back, and he received a call from the urologist stating 
that the biopsy was negative. 

Despite the fact that his biopsy was negative, he is still 
suffering from depression; he states that his mind is 
"constantly racing with the potential to fail," in his family 
business, and concerns about the health of his family members 
affected by cancer. He states that he has begun experiencing 
suicidal
ideation in this context, and has been having thoughts of 
suicide for ~1.5 weeks. He states that he kept these thoughts to 
himself, but hadn't revealed his thoughts of SI to his wife 
until tonight, "because I just couldn't take the feeling I was 
having." He also states that last week he saw his PCP, and did 
not reveal his thoughts of SI to his PCP at this time, because 
"I thought those
thoughts would go away, and I had just gotten the good news of 
the negative prostate biopsy results the day before." His PCP 
provided ___ therapy referral at that time and he received a call 
today at 5:30pm to set up a ___ call for tomorrow at 
2:30pm; he received this call on his way home from work. Upon 
returning home, "I broke down in front of my wife, and it came 
out that I was thinking of hurting myself."  

When asked if he had had any thought about how to hurt himself, 
he denies having had made any plan, and states, "I was having 
all these other racing thoughts in my head, bad thoughts about 
failing in business," or about the worsening health of his 
family. 

He notes that he has a significantly reduced appetite over the 
past month, with him having lost 20 pounds over the past month.  
He endorses depressed mood for 1.5 months. He endorses 
anhedonia, with him no longer taking pleasure from watching 
televised sports. He endorses poor concentration with him not 
being able to focus on reading the newspaper. He endorses 
feelings of guilt and
shame for "what I am putting my family through," and feels that 
he has distanced himself from everybody. He endorses poor 
energy, "zero energy," and psychomotor retardation, "I can't get 
out of bed in the morning." 

On current admission interview, patient describes periodic 
"waves of anxiety," which manifest as shortness of breath and 
rapid heart rate/palpitations, and are often crippling.  He also 
endorses a perceived inability to cope with the level of 
depression and anxiety at home, and expresses concern that he is
relying too much on his wife, with whom he has confided his 
symptoms.  Patient is hoping to learn new ways to cope with 
feeling so overwhelmed, and is amenable to trying medication to 
alleviate some of his symptoms.  He is also looking forward to 
being connected with an outpatient psychiatrist and therapist.  

Collateral, review of Atrius records:
Of significance, review of OMR including Atrius records is 
significant for patient having experienced multiple bouts of 
severe anxiety recently. 
___: Patient called triage nurse associated with his primary 
care clinic on ___, reporting significant anxiety with his 
prostate biopsy which was scheduled for ___. He felt that his 
support network was weakened as his brother (who patient 
described as his closest support person and business partner) is 
dealing with his own wife having pancreatic cancer, and the
patient also not wanting to discuss his feelings with his wife 
because she is "already dealing with a lot." He reported feeling 
distracted "all the time," and constantly worrying about the 
worst case scenario. At that time he denied SI/HI.

___: Patient saw his PCP, ___, reported he 
experienced multiple bouts of anxiety over the week of 
___. He reported stress over his ___ being 
diagnosed with breast cancer and his brother's wife being 
diagnosed with pancreatic cancer metastatic to liver. He 
reported
having lost 10 pounds, which he then attributed to anxiety and 
nervousness. He reported eating but less than usual, and did not 
report difficulty with sleep. He was anticipating a prostate 
biopsy scheduled for the month of ___: Follow up with PCP, prostate biopsy from ___ was 
negative. Patient continued to report high anxiety and noted 
many stressors with family members. He was concerned about his 
recent history of weight loss. Patient requested to see a 
therapist and was referred to behavioral health. 

Collateral information - ___:
Ms. ___ was present at the patient's bedside for part of the 
interview described above, and was spoken with by this examiner 
in private as well with the patient's permission. Her report is 
consistent with the patient's, and she states that her husband 
has appeared more depressed over the past month, and last week 
was stating that he was having "bad thoughts", but he did not 
discuss suicidal ideation with her until today, at which point 
in consultation with the patient's sister (an RN), it was 
mutually decided the patient should present to the ___ for 
evaluation. Ms. ___ is in agreement that inpatient 
hospitalization may be the most beneficial next step for the 
patient. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY (per Dr. ___ consult note 
from
___, confirmed with patient and updated where
appropriate):
Hospitalizations: denies
Past diagnoses: denies 
Medication and ECT trials: denies
Current treaters and treatment: PCP - ___ attempts: denies
___: denies
Trauma: denies
Harm to others: denies 
Access to weapons: Reports his son is training to be a police
___ in his ___ month at the ___ academy; states his son
has a safe in his room where he will keep a weapon in the future
but has no gun currently

PAST MEDICAL HISTORY
- denies
 
Social History:
Personal History:
- grew up in ___
- currently married, has been together with wife for ___ years
- now lives in ___ with his wife and ___ year old son who
is currently enrolled at the ___ academy. Has a ___ year old 
daughter, a ___, living in ___. 
- works in a family ___ (___), business 
partners are his two brothers

___ History:
___
Substance Abuse History:
- EtOH: "Occasional glass of beer or red wine"
- Tobacco: denies
- Marijuana: denies
- Illicits: denies

 
Family History:
Psychiatric illness:
- Younger brother - bipolar disorder, "in and out of hospitals,"
and "we've lost track of him since ___
Suicide:
- denies knowledge of attempted or completed suicide
 
Physical Exam:
Admission Physical Exam:
VS: T: 98.7, BP: 122/80, HR: 101, R: 18, O2 sat: 96% on RA

General: Pt appears stated age, NAD. ___.
 HEENT: Normocephalic, atraumatic. EOMI. 
 Neck: Supple.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 -Pupils symmetry and responsiveness to light and accommodation:
PERRLA
 -Visual fields: full to confrontation
 -EOM: full
 -Facial sensation to light touch in all 3 divisions: equal
 -Facial symmetry on eye closure and smile: symmetric
 -Hearing bilaterally to rubbing fingers: normal
 -Phonation: normal
 -Shoulder shrug: intact
 -Tongue: midline

- Motor: Normal bulk and tone bilaterally. No abnormal -
movements, no tremor. 
- Strength: Moves upper and lower extremities antigravity and
with full ROM. 
- DTRs: Not assessed. 
- Sensation: Grossly intact. 
- Gait: Steady. Normal stance and posture. No truncal ataxia.
- Romberg: Negative.

Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview
 Orientation: oriented to person, time, place, situation
 Executive function ___ go, Luria, trails, FAS): not tested
 Memory: intact to recent and past history
 Fund of knowledge: consistent with education
 Calculations: not assessed
 Abstraction: not assessed
 Visuospatial: not assessed
 Speech: normal rate, volume, and tone
 Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
 Behavior: Calm, cooperative, engaged, friendly, pleasant,
appropriate eye contact, no psychomotor agitation or retardation
 Mood and Affect: "anxious" / euthymic, anxious at times; range
mildly restricted, no lability.  
 Thought Process: linear, coherent, ___. No LOA.
 Thought Content: denies SI/HI/AH/VH, no evidence of delusions 
or
paranoia
 Judgment and Insight: fair/fair

Discharge Physical Exam on ___:
VS: T 98.7; BP 119/74; HR 94; RR 16; O2 96% RA 

Neurological:
  station and gait: steady, normal stance and posture, without 
truncal ataxia
  tone and strength: wnl; moves upper and lower extremities 
antigravity and with apparent full ROM
  cranial nerves: CN ___ intact and symmetric, without focal 
deficits
  abnormal movements: None observed
  Appearance: Appears stated age, wearing casual clothes 
appropriate for the milieu, in no acute distress
  Behavior: Cooperative, engaged with the treatment team, 
appropriate eye contact.  .
  Mood and Affect: "much better" / affect continues to be mildly 
anxious, ___
  Thought Process: linear, coherent, ___. No LOA.
  Thought Content: Denies SI/HI/AH/VH, no evidence of delusions 
or paranoia
  Judgment and Insight: grossly intact.
Mr. ___ shared about positive plans for future. He asked questions 
about his outpatient treatment and about his medications. 
Overall, he was pleased about positive change with decrease of 
anxiety.
 
 Cognition: 
  Attention: intact to interview
  Orientation: oriented to person, time, place, situation
  Memory: intact to recent and past history
  Fund of knowledge: consistent with education
  Speech: normal rate, volume, and tone
  Language: native ___ speaker, no paraphasic errors, 
appropriate to conversation
 
Pertinent Results:
___ 09:33PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 09:33PM   ___ this
___ 09:33PM   ___ 
___
___ 09:33PM   ___ 
___
___ 09:33PM   ___ 
___ IM ___ 
___
___ 09:33PM   PLT ___
___ 09:30PM URINE  ___
___ 09:30PM URINE  ___ 
___
___ 09:30PM URINE  ___ SP ___
___ 09:30PM URINE  ___ 
___ 
___
___ 09:30PM URINE  ___ 
___
___ 02:30AM BLOOD ___ 
___ Plt ___
___ 02:30AM BLOOD Plt ___
___ 02:30AM BLOOD ___ 
___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He did sign a ___ request to 
leave, which expired on ___ (day of discharge).  He was 
initially placed on 15 minute checks status on admission, which 
was temporarily changed to 5 minute checks following a severe 
panic attack on hospital day 2, but this was subsequently 
liberalized to 15 minute checks without further incident.  

2. PSYCHIATRIC:
#) Major Depressive Disorder, Single Episode; Panic Disorder
Patient presented with worsening anxiety and depression, and at 
least two episodes of panic attacks where the patient 
experienced passive suicidal ideation prior to admission.  On 
hospital day 2, patient had a severe panic attack with chest 
pain, diaphoresis and tremulousness that responded well to 
breathing exercises, benzodiazepine administration and staff 
support.  Patient ___ to unit and encouraged to attend 
groups to develop coping skills and other ___ ways 
to cope with anxiety and stress.  Symptoms notably improved on 
subsequent evaluations.  
- Provided daily individual, group, and milieu therapy
- Initiated Zoloft 25 mg PO Daily; discussed ___ to 50 
mg PO Daily, but given his short hospital course, this was 
deferred to the outpatient setting.
- Initiated Trazodone 25 mg PO QHS PRN Insomnia; this was 
___ and provided good effect.
- Initiate Ativan 0.5 mg PO QAM as temporary prophylactic 
treatment for anxiety with hope it will allow him to be more 
interactive in milieu following panic attack on hospital day 2 
referenced above.
- Initiated Ativan 0.5 mg PO BID PRN Anxiety, which was utilized 
in the evenings with good effect.

3. SUBSTANCE USE DISORDERS:
#) None

4. MEDICAL
#) No acute medical issues.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.  The patient was interactive and 
appropriate with staff while in the milieu.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Team set up outpatient providers.  Also spoke with family 
members to gather collateral and provide clinical updates.

#) INTERVENTIONS
- Medications: As above
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Set up appointment for 
psychiatrist, who will connect him to a therapist.  
- Behavioral Interventions: Encouraged distress tolerance/coping 
skills 
- Guardianships: None

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to self based upon 2 episodes of passive 
suicidal ideation.  

Their static factors noted at that time include:
- male gender 
- Caucasian race 

The modifiable risk factors were addressed during this 
hospitalization:
- suicidal ideation: with the exception of his panic attack on 
hospital day 2, the patient consistently denied suicidal 
ideation.  Denied intent or plan ever.
- no established outpatient treatment: Set up intake appointment 
with outpatient psychiatrist who will connect him with 
therapist.  

Finally, the patient is being discharged with many protective 
risk factors:
- ___ nature 
- ___ viewpoint 
- sense of responsibility to family 
- children in the home 
- life satisfaction 
- good ___ skills 
- no history of substance use disorder
- no history of abuse 
- ability to tolerate rejection
- strong social supports.  

Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of ___ nor 
danger to others and is suitable for outpatient level of care. 

Our Prognosis of this patient is good.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LORazepam 0.5 mg PO BID:PRN Anxiety 
Please use this medication sparingly and do not mix with alcohol 
or other drugs.   
RX *lorazepam 0.5 mg 1 tablet by mouth Twice a day as needed 
Disp #*30 Tablet Refills:*0 
2.  Sertraline 25 mg PO DAILY 
Discuss dose increase to 50 mg with your outpatient 
psychiatrist.   
RX *sertraline 25 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  TraZODone ___ mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 to 1 tablet(s) by mouth Before bed as 
needed Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, Single Episode
Panic Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for worsening depression and 
anxiety, as well as 2 discrete episodes of having thoughts of 
suicide.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___